US07183277B2
2.68 g (12.7 mmol) of 1-(4-aminophenyl)pyrrolidin-2-ylideneamine, hydrochloride, are dissolved in 70 ml of methanol, 9.49 g (113 mmol) of sodium hydrogencarbonate and 4.06 g (48.6 mmol) of methoxylamine, hydrochloride, are added, and the mixture is heated at 70° C. for 48 hours. The reaction mixture is evaporated, and the residue is taken up in acetone. The insoluble components are filtered off, and the filtrate is evaporated. The residue is chromatographed on a silica-gel column with ethyl acetate as eluent, giving 1-(4-aminophenyl)pyrrolidin-2-one O-methyl oxime as a brownish solid; ESI 206.

reactant | 1-(4-aminophenyl)pyrrolidin-2-ylideneamine, hydrochloride | 12.7 mmol, 2.68 g | Cl.NC1=CC=C(C=C1)N1C(CCC1)=N
reactant | sodium hydrogencarbonate | 113 mmol, 9.49 g | C(O)([O-])=O.[Na+]
reactant | methoxylamine, hydrochloride | 48.6 mmol, 4.06 g | Cl.O(C)N
solvent | methanol | 70 ml | CO | CH4O
product | 1-(4-aminophenyl)pyrrolidin-2-one O-methyl oxime | CON=C1N(CCC1)C1=CC=C(C=C1)N | C11H15N3O
